US05214206
Synthesis of N'-[[[2,6-bis(1-methylethyl)phenyl]amino]sulfonyl]N,N-bis(phenylmethyl) urea
A solution of dibenzylamine (5.0 g, 25.3 mmol) in 75 mL tetrahydrofuran was added dropwise to a solution of chlorosulfonyl isocyanate (2.21 mL, 25.3 mmol) in 75 mL tetrahydrofuran at 0° C. under an atmosphere of nitrogen. The resulting mixture was warmed to room temperature and stirred for 16 hours. A solution of 2,6-diisopropyl aniline (4.08 g, 23 mmol) and triethylamine (3.5 mL, 25 mmol) in 50 mL tetrahydrofuran was added dropwise and the resulting suspension was stirred for 72 hours. Partitioned between 1N HCl and ethyl acetate. The organic layer was dried with MgSO4, filtered, and evaporated to give an orange oil. Chromatography gave the title compound as a white solid, mp 140°-142° C.

reactant | dibenzylamine | 25.3 mmol, 5.0 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | chlorosulfonyl isocyanate | 25.3 mmol, 2.21 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2,6-diisopropyl aniline | 23 mmol, 4.08 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N'-[[[2,6-bis(1-methylethyl)phenyl]amino]sulfonyl]N,N-bis(phenylmethyl) urea | CC(C)C1=C(C(=CC=C1)C(C)C)NS(=O)(=O)NC(N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C27H33N3O3S
